US04921855
To a solution of benzyl 2(S)-(3-thiazolidine-carbonyloxy)-3-phenylpropionate (371 mg) in methylene chloride (7 ml), which was cooled to 0° C., was added 80% m-chloroperbenzoic acid (215 mg). The mixture was stirred at same temperature for 30 minutes. Then 10% sodium sulfite aqueous solution and methylene chloride were added thereto, and the mixture was separated. The separated aqueous layer was extracted with methylene chloride (2 times). The combined extract was washed with saturated sodium hydrogen carbonate solution and saturated sodium chloride solution successively, dried over magnesium sulfate, and concentrated under reduced pressure. Obtained crystals were washed with n-hexane to give benzyl 2(S)-(1-oxo-thiazolidine-3-carbonyloxy)-3-phenylpropionate (350 mg).

reactant | benzyl 2(S)-(3-thiazolidine-carbonyloxy)-3-phenylpropionate | 371 mg | S1CN(CC1)C(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C20H21NO4S
reactant | m-chloroperbenzoic acid | 215 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | benzyl 2(S)-(1-oxo-thiazolidine-3-carbonyloxy)-3-phenylpropionate | 350 mg | O=S1CN(CC1)C(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C20H21NO5S
